US03973040
Preparation of 2,6-Di-t-butyl-4-cinnamylphenol
Cinnamyl alcohol (134 g.) was added to a suspension of 2,6-di-t-butylphenol (206 g.) in 88% aqueous formic acid (470 ml.) and glacial acetic acid (200 ml.), and the mixture was refluxed for 1.5 hours. Warm water (2000 ml.) was added and the oily layer which formed on top of the mixture was collected. The oil was distilled and gave a fraction (179 g.), b.p. 190°-200°C. at 0.5 mm Hg. The oil crystallized upon treatment with Skelly F (a mixture of petroleum hydrocarbons boiling between 30°-60°C.) to give glistening, colorless needles, m.p. 93°C. (Found: C, 85.7; H, 9.20. Calc. for C23H30O: C. 85.7; H, 9.38). The nuclear magnetic resonance (nmr) spectrum of this compound at 100 MHz in deuterated chloroform (CDCl3) exhibited absorbances as follows: a singlet (9 protons) at δ 1.41; a singlet (9 protons) at δ 1.45; a singlet (2 protons) at δ 3.48; a singlet (1 proton) at δ 5.07; a multiplet (2 protons) at δ 6.18-6.58; and a multiplet (7 protons) at δ 6.96-7.46.

reactant | Cinnamyl alcohol | 134 g | C(C=CC1=CC=CC=C1)O | C9H10O
reactant | 2,6-di-t-butylphenol | 206 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | water | 2000 ml | O | H2O
solvent | formic acid | 470 ml | C(=O)O | CH2O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2,6-Di-t-butyl-4-cinnamylphenol | C(C)(C)(C)C1=C(C(=CC(=C1)CC=CC1=CC=CC=C1)C(C)(C)C)O | C23H30O
